US07723378B2
To a solution of crude 3-formyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (2.38 g, 10 mmol) in methanol (20 mL) NaBH4 (756 mg, 20 mmol) is added in portions. The mixture is stirred at rt for 15 min, diluted with 10% aq. citric acid and brine and extracted with TBME. The organic extract is dried over Na2SO4 and the solvent is removed under reduced pressure to give 3-hydroxymethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (2.30 g) as a beige foam; LC-MS: tR=0.83 min, [M+1]=241.22; 1H NMR (CDCl3): δ 4.69 (s, 2H), 3.00 (t, J=7.0 Hz, 2H), 2.32 (s, 2H), 1.50 8 t, J=7.0 Hz, 2H), 0.94 (s, 6H).

reactant | 3-formyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 10 mmol, 2.38 g | C(=O)C1=C2C(=C(S1)C(=O)O)CCC(C2)(C)C | C12H14O3S
reactant | methanol | 20 mmol, 20 mL, 756 mg | CO | CH4O
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | brine | [Cl-].[Na+].O
product | 3-hydroxymethyl-5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 2.30 g | OCC1=C2C(=C(S1)C(=O)O)CCC(C2)(C)C | C12H16O3S
